US08252792B2
Benzyl-{1-[2-(1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-ylmethyl]-piperidin-4-yl}-(2-methoxy-ethyl)-amine
Benzyl-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-ylmethyl)-piperidin-4-yl]-(2-methoxy-ethyl)-amine (150 mg), was used in a Suzuki coupling with 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole (141 mg), to give after flash silica purification the title compound (105 mg) as a white solid.

reactant | Benzyl-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-ylmethyl)-piperidin-4-yl]-(2-methoxy-ethyl)-amine | 150 mg | C(C1=CC=CC=C1)N(CCOC)C1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C26H34ClN5O2S
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 141 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
product | Benzyl-{1-[2-(1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-ylmethyl]-piperidin-4-yl}-(2-methoxy-ethyl)-amine | C(C1=CC=CC=C1)N(CCOC)C1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C2C=CNC2=CC=C1 | C34H40N6O2S
